US04008070
To a suspension of 2 -amino-5-chlorocinnamic acid (3.0 g) in water (35 ml), there is added conc. hydrochloric acid (11 ml). To the resulting solution cooled with ice, a solution of sodium nitrite (1.0 g) in water (2 ml) is dropwise added while stirring, and stirring is continued for 30 minutes. Anhydrous sodium sulfite (5.0 g) is portionwise added thereto. After stirring at room temperature for 1 hour, the resulting mixture is admixed with water (100 ml) and heated on an oil bath for 0.5 to 1 hour while refluxing. The reaction mixture is filtered. The collected material is washed with hot water. The washing water is combined with the filtrate and concentrated. The residue is crystallized from hot water to give 5-chloro-1H-indazole-3-acetic acid (0.7 g) as white needles melting at 205° C (decomp.)

reactant | 2 -amino-5-chlorocinnamic acid | 3.0 g | NC1=C(C=CC(=O)O)C=C(C=C1)Cl | C9H8ClNO2
reactant | hydrochloric acid | 11 ml | Cl | ClH
reactant | sodium nitrite | 1.0 g | N(=O)[O-].[Na+]
reactant | sodium sulfite | 5.0 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 35 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 5-chloro-1H-indazole-3-acetic acid | 0.7 g | ClC=1C=C2C(=NNC2=CC1)CC(=O)O | C9H7ClN2O2
